US07423050B2
Dissolve the 2,4,6-trifluoro-N-methyl-N-[6-(1-t-butoxycarbonyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide in 50% trifluoroacetic acid/CH2Cl2 (24 mL) and stir for 45 min. Remove volatiles under reduced pressure and extract with ethyl acetate and aqueous NaOH (2M). Combine the organic layers and dry with sodium sulfate. Concentrate and purify the residue by chromatography (silica gel/6% of (2M NH3 in methanol)/CH2Cl2) to afford 2,4,6-trifluoro-N-methyl-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide (77 mg, 85% yield).

reactant | 2,4,6-trifluoro-N-methyl-N-[6-(1-t-butoxycarbonyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | FC1=C(C(=O)N(C2=NC(=CC=C2)C(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C)C(=CC(=C1)F)F | C24H26F3N3O4
solvent | trifluoroacetic acid CH2Cl2 | 24 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 2,4,6-trifluoro-N-methyl-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 77 mg, 85% yield | FC1=C(C(=O)N(C2=NC(=CC=C2)C(=O)C2CCNCC2)C)C(=CC(=C1)F)F | C19H18F3N3O2
